US04217453
A solution of N-(t-butyldimethylsilyl)-3-azido-4-(3-benzyloxycarbonyl-2-oxopropyl)-azetidin-2-one (1.0 g) in methanol (10 ml) is treated with conc. hydrochloric acid (0.1 ml) and left at room temperature for 2 hr. The solution is diluted with water and extracted with ethyl acetate. The extracts are washed with 5% sodium bicarbonate solution and brine, dried, and evaporated under vacuum. The residue is chromatographed on silica gel to give 3-azido-4-(3-benzyloxycarbonyl-2-oxopropyl)-azetidin-2-one.

reactant | N-(t-butyldimethylsilyl)-3-azido-4-(3-benzyloxycarbonyl-2-oxopropyl)-azetidin-2-one | 1.0 g | [Si](C)(C)(C(C)(C)C)N1C(C(C1CC(CC(=O)OCC1=CC=CC=C1)=O)N=[N+]=[N-])=O | C20H28N4O4Si
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
product | 3-azido-4-(3-benzyloxycarbonyl-2-oxopropyl)-azetidin-2-one | N(=[N+]=[N-])C1C(NC1CC(CC(=O)OCC1=CC=CC=C1)=O)=O | C14H14N4O4
